US08802853B2
Catalyst (5% Pd/C) was added to a suspension of 4-[(3-nitroquinolin-4-yl)amino]butan-1-ol (18.2 g, 69.6 mmol) in toluene (450 mL) in a Parr vessel. The vessel was placed on a shaker and pressurized with hydrogen. The next day ethanol (60 mL) and additional catalyst were added and the vessel was again pressurized with hydrogen. After 1 hour analysis by TLC indicated that all of the starting material had been consumed. The reaction mixture was filtered through a layer of CELITE filter aid and then concentrated under reduced pressure to provide 17 g of 4-[(3-aminoquinolin-4-yl)amino]butan-1-ol.

reactant | 4-[(3-nitroquinolin-4-yl)amino]butan-1-ol | 69.6 mmol, 18.2 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCO | C13H15N3O3
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 60 mL | C(C)O | C2H6O
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | [Pd] | Pd
product | 4-[(3-aminoquinolin-4-yl)amino]butan-1-ol | 17 g | NC=1C=NC2=CC=CC=C2C1NCCCCO | C13H17N3O
